US09102614B2
Preparation of 4-bromo-1-(4-chlorophenyl)-3-methyl-2-naphthonitrile:
To a 50-50 (v/v) EtOH-toluene solution (4 mL) of 4-bromo-2-cyanonaphthalen-1-yl perfluorobutanesulfonate (3.99 g, 7.33 mmol) in a 2-5 mL microwave vial was added 4-chlorophenylboronic acid (1.65 g, 10.55 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (165 mg, 0.171 mmol) and 6 mL of 2 M K2CO3. The vial was sealed, and heated thermally at 60° C. for 30 minutes. The mixture was concentrated in vacuo, redissolved in EtOAc and washed with saturated NH4Cl and brine then dried with sodium sulfate and concentrated. The residue was chromatographed on silica gel using EtOAc and hexanes to give a mixture of products. This mixture was then purified by hot filtration using neat hexanes (50 mL) to give rise to desired pure product (731 mg, 28% yield). A second crop (600 mg) was obtained by repeating the hot filtration that was contaminated with starting material. 1H-NMR: (400 MHz, MeOH-d4): δ 8.361 (d, J=8.4 Hz, 1H); 7.89-7.85 (m, 1H); 7.69-7.62 (m, 3H); 7.56-7.49 (m, 3H); 2.81 (s, 3H).

reactant | 4-bromo-2-cyanonaphthalen-1-yl perfluorobutanesulfonate | 7.33 mmol, 3.99 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=C(C=C(C2=CC=CC=C12)Br)C#N)F | C15H5BrF9NO3S
reactant | 4-chlorophenylboronic acid | 10.55 mmol, 1.65 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 2 M, 6 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.171 mmol, 165 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | EtOH toluene | 4 mL | CCO.C1(=CC=CC=C1)C
product | 4-bromo-1-(4-chlorophenyl)-3-methyl-2-naphthonitrile | 731 mg, 28% yield | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C#N)C | C18H11BrClN
